US06727264B1
1-(4-PYRIDINYL)-1H-INDOLE:
Prepared by Procedure C and Scheme O using 1H-indole and 4-iodopyridine: ESMS m/e: 195 (M+H)+.

reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 4-iodopyridine | IC1=CC=NC=C1 | C5H4IN
product | 1-(4-PYRIDINYL)-1H-INDOLE | N1=CC=C(C=C1)N1C=CC2=CC=CC=C12 | C13H10N2
